US07501430B2
12c: Preparation of N-[1-(cyclopropylsulfonyl)piperidin-4-yl]-4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine
The 4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[piperidin-4-yl]pyrimidin-2-amine hydrochloride (0.25 g, 0.50 mmol) in methylene chloride (DCM) (12 ml) was cooled to 0° C. and was treated with Hunig's base (440 μl, 2.5 mmol). The mixture was kept at 0° C. for 30 minutes then the cyclopropyl-sulfonyl chloride (72 μl, 0.60 mmol) was added. The reaction mixture was stirred at room temperature for one hour. The mixture was diluted with methylene chloride (10 ml) and was washed water (2×10 ml) and a saturated aqueous sodium chloride solution (10 ml). The organic phase was dried over sodium sulfate and concentrated in vacuo. The crude product was purified by flash chromatography using a gradient (ethyl acetate/hexanes, 30-75%), affording 0.253 g (96%) of the title compound as a pale yellow solid. M.p.: 146-148° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 8.72 (br. s, 1H), 8.13 (d, J=5.1 Hz, 1H), 7.45 (d, J=4.3 Hz, 1H), 7.35 (dd, J=8.6, 2.0 Hz, 1H), 7.26 (dd, J=11.3, 8.2 Hz, 1H), 7.25 (br. S, 1H), 7.15 (ddd, J=8.2, 4.7, 2.0 Hz, 1H), 6.41 (d, J=5.1 Hz, 1H), 3.95-3.86 (m, 1H), 3.83 (s, 3H), 3.68-3.61 (m, 2H), 3.06-2.96 (m, 2H), 2.60-2.52 (m, 1H), 2.08-1.96 (m, 2H), 1.66-1.54(m, 2H), 1.04-0.94 (m, 4H). LCMS: 529 [M+H]. Calc. for C24H25N6O3S2F.0.13 water.0.7 diethyl ether: C, 54.31; H, 5.25; N, 14.18. Found C, 54.32; H, 4.89; N, 14.19.

reactant | 4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[piperidin-4-yl]pyrimidin-2-amine hydrochloride | 0.50 mmol, 0.25 g | Cl.FC1=C(C=C(C=C1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)NC1CCNCC1)OC
reactant | Hunig's base | 2.5 mmol, 440 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropyl-sulfonyl chloride | 0.60 mmol, 72 μl | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[1-(cyclopropylsulfonyl)piperidin-4-yl]-4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-amine | 0.253 g, 96% | C1(CC1)S(=O)(=O)N1CCC(CC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C2=CC(=C(C=C2)F)OC | C24H25FN6O3S2
